US05663164
A solution of 2.68 g of diphenyldiazomethane in 59 ml of ether was added to a solution of 6.55 g of 4-{[(4-methylphenyl)-sulfonyloxy]-methyl}-3-(triphenylmethylamino)-2-oxo-azetidin-1-yl-acetic acid in 70 ml of dioxane and after stirring for 3 hours at 20° C. 448 mg of diphenyldiazomethane were added. The mixture was stirred at 20° C. for 16 hours and was then evaporated to dryness under reduced pressure. The residue was chromatographed over silica and was eluted with a 10-0.5 methylene chloride-ether mixture to obtain 7.5 g of diphenylmethyl racemic cis 4-{[(4-methylphenyl)-sulfonyloxy]-methyl)-3-triphenylmethylamino-2-oxo-azetidin-1-yl-acetate.

reactant | diphenyldiazomethane | 2.68 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 4-{[(4-methylphenyl)-sulfonyloxy]-methyl}-3-(triphenylmethylamino)-2-oxo-azetidin-1-yl-acetic acid | 6.55 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1C(C(N1CC(=O)O)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H30N2O6S
reactant | diphenyldiazomethane | 448 mg | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ether | 59 ml | CCOCC | C4H10O
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | diphenylmethyl racemic cis 4-{[(4-methylphenyl)-sulfonyloxy]-methyl)-3-triphenylmethylamino-2-oxo-azetidin-1-yl-acetate | 7.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@@H](C(N1CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H40N2O6S
